US06288086B1
4-(4-methoxy-benzenesulfonyl)-1-(2-phenoxy-ethyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethoxy)-piperidine-4-carboxylic acid ethyl ester (5.0 g, 11.1 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 3.0 g (63%); off white powder; mp 235° C.; MS: 420.5 (M+H)+.

reactant | 4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethoxy)-piperidine-4-carboxylic acid ethyl ester | 11.1 mmol, 5.0 g | C(C)OC(=O)C1(CCN(CC1)OCCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C23H29NO6S
reactant | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-methoxy-benzenesulfonyl)-1-(2-phenoxy-ethyl)-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCOC1=CC=CC=C1)C(=O)O | C21H25NO6S
